US07319108B2
(1-{4-[5-(4-Fluorobenzyloxymethyl)[1,2,4]oxadiazol-3-yl]phenyl}pyrrolidin-3-yl)dimethylamine
4-Fluorobenzyl bromide (18.9 mg) and potassium carbonate (27.6 mg) were added to a mixture of {3-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl][1,2,4]oxadiazol-5-yl}methanol (28.8 mg) and DMF (0.3 ml). The reaction mixture was stirred at 60° C. for 3 h, filtered and purified by preparative HPLC. The product with the molecular weight of 396.20 (C22H25FN4O2) was obtained in this way; MS (ESI): 397.27 (M+H+).

reactant | 4-Fluorobenzyl bromide | 18.9 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 27.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | {3-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl][1,2,4]oxadiazol-5-yl}methanol | 28.8 mg | CN(C1CN(CC1)C1=CC=C(C=C1)C1=NOC(=N1)CO)C | C15H20N4O2
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
product | (1-{4-[5-(4-Fluorobenzyloxymethyl)[1,2,4]oxadiazol-3-yl]phenyl}pyrrolidin-3-yl)dimethylamine | FC1=CC=C(COCC2=NC(=NO2)C2=CC=C(C=C2)N2CC(CC2)N(C)C)C=C1 | C22H25FN4O2
